US07109354B2
a) {Imino-[5-methylsulfanyl-4-(2′-methyl-4′-trifluoromethanesulfonylamino-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester
To a solution of {[4-(4′-amino-2′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester (34 mg, 66 μmol), as prepared according to the procedure of step b of Example 120, and DIEA (28 μL, 0.16 mmol) in DCM (1.0 mL) in an ice-H2O bath was added trifluoromethanesulfonic anhydride (12 μL, 72 μmol) with stirring. After the ice bath expired, the mixture was continued to stir at ambient temperature for 16 h, and then poured into saturated NaHCO3, and extracted with EtOAc (2×). The extracts were combined, washed with H2O and brine, dried over Na2SO4, concentrated, and flash chromatographed on silica gel column, eluting with EtOAc/hexane (20 to 40%) to give the title compound (9 mg, 21% yield) as an oil.

reactant | {[4-(4′-amino-2′-methyl-biphenyl-3-sulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | 66 μmol, 34 mg | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)N)C)SC)=O | C24H27N3O4S3
reactant | DIEA | 0.16 mmol, 28 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 72 μmol, 12 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | {Imino-[5-methylsulfanyl-4-(2′-methyl-4′-trifluoromethanesulfonylamino-biphenyl-3-sulfonyl)-thiophen-2-yl]-methyl}-carbamic acid tert-butyl ester | 9 mg, 21% yield | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)NS(=O)(=O)C(F)(F)F)C)SC)=N)=O | C25H26F3N3O6S4
